US04640703
29.5 g (0.137 mole) of 2-bromopropionyl bromide are added dropwise at 15° C. to 13.4 g (0.137 mole) of butyl cyanamide and 13.8 g (0.137 mole) of triethylamine in 150 ml of ether. The mixture is stirred for 3 hours at 20° to 25° C., then filtered to remove the precipitated salt. The filtrate is extracted with dilute hydrochloric acid and the extract is dried over sodium sulfate and concentrated by evaporation. The oily residue is distilled under high vacuum, affording 22.6 g (70.8% of theory) of 2-bromopropionic acid N-cyano-N-butylamide with a boiling point of 53°-54° C. at 0.0052 mbar.

reactant | 2-bromopropionyl bromide | 0.137 mole, 29.5 g | BrC(C(=O)Br)C | C3H4Br2O
reactant | butyl cyanamide | 0.137 mole | C(CCC)NC#N | C5H10N2
reactant | triethylamine | 0.137 mole, 13.8 g | C(C)N(CC)CC | C6H15N
solvent | ether | 150 ml | CCOCC | C4H10O
product | 2-bromopropionic acid N-cyano-N-butylamide | 22.6 g, 70.8% | C(#N)N(C(C(C)Br)=O)CCCC | C8H13BrN2O
